US08222245B2
To a solution of diisopropylamine (15.15 ml, 106 mmol) in dry THF (650 m) at −78° C. under Ar was added nBuLi (44.3 ml, 70.9 mmol) down the side of the flask and the resulting solution stirred for 1 h. A solution of 3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2-methylbenzonitrile Preparation 21) (12.54 g, 35.4 mmol) in dry THF (100 ml) under Ar was added dropwise at ˜10 mlmin−1, and the resulting dark blue solution stirred at −78° C. for 45 min. Allyl bromide (6.13 ml, 70.9 mmol) was added dropwise at ˜3 mlmin−1, and the resulting dark red solution stirred for 30 min at −78° C. 1 M HCl (aq) (375 ml) was added, the mixture allowed to warm to RT then the layers separated. The aqueous was extracted with EtOAc (2×125 ml), then the combined organics washed with brine (250 ml), dried (MgSO4), filtered and concentrated in vacuo to give a crude red oil (12.8 g). This was redissolved in DCM (20 ml) and added to a pre-wet (isohexane) column of silica (5 cm×5 cm). Elution with EtOAc-isohexane (1:3) and concentration of the desired fractions gave a pale orange solid 2-(3-buten-1-yl)-3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)benzonitrile (9.50 g, 20.98 mmol, 59.2% yield). 1H NMR (400 MHz, CDCl3) δ 8.26 (1H, d), 8.24 (1H, d), 8.05 (1H, dd), 7.79 (1H, d), 7.46 (1H, t), 7.07 (1H, d), 5.94 (1H, ddt), 5.07 (1H, dq), 5.01 (1H, dd), 4.73 (1H, sept), 3.40 (2H, t), 2.47 (2H, qd), 1.45 (6H, d); MS (ES) C22H2035ClN3O2 requires 393; found 394 [M+H]+.

reactant | diisopropylamine | 106 mmol, 15.15 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 70.9 mmol, 44.3 ml | [Li]CCCC
reactant | 3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2-methylbenzonitrile | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C(C#N)C=CC1)C | C19H16ClN3O2
reactant | Allyl bromide | 70.9 mmol, 6.13 ml | C(C=C)Br | C3H5Br
reactant | HCl | 1 M, 375 ml | Cl | ClH
reactant | isohexane | CCCC(C)C | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-buten-1-yl)-3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)benzonitrile | 20.98 mmol, 9.50 g, 59.2% yield | C(CC=C)C1=C(C#N)C=CC=C1C1=NOC(=N1)C1=CC(=C(C=C1)OC(C)C)Cl | C22H20ClN3O2
